US09359375B2
A solution of 2-bromo-4,5-difluorobenzonitrile (218 mg, 1.00 mmol), tert-butyl (1S,2R)-2-aminocyclohexylcarbamate (214 mg, 1.00 mmol) and DIEA (0.300 mL, 1.72 mmol) in DMSO (2 mL) was stirred at 100 C for 18 h. Water was added to induce precipitation. The precipitate was collected and dried on vacuum to give tert-butyl (1S,2R)-2-(5-bromo-4-cyano-2-fluorophenylamino)cyclohexylcarbamate as a solid (385 mg).

reactant | 2-bromo-4,5-difluorobenzonitrile | 1.00 mmol, 218 mg | BrC1=C(C#N)C=C(C(=C1)F)F | C7H2BrF2N
reactant | tert-butyl (1S,2R)-2-aminocyclohexylcarbamate | 1.00 mmol, 214 mg | N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | DIEA | 1.72 mmol, 0.300 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | tert-butyl (1S,2R)-2-(5-bromo-4-cyano-2-fluorophenylamino)cyclohexylcarbamate | 385 mg | BrC=1C(=CC(=C(C1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)F)C#N | C18H23BrFN3O2
